*******************************************
*  nmLaser shutter driver test simulation *
*******************************************

** Component Definitions
V1 1 0 24
R1 1 2 25
C1 2 0 300u

* Shutter equivalent circuit
R5 2 3 22
L5 3 4 10m

* Switch and switching-off control voltage
SW1 4 0 10 0 Smod
Voff 10 0 PULSE(5 0 2NS 2NS 2NS 1 1)

* * Orignal design with single flywheel diode
* D1 4 2 D1N4001

* Orignal design with single flywheel diode
D1 5 2 D1N4001
D2 5 4 D1N5357


* Sub-Circuit Definitions
.subckt shutter 1 3
R1 1 2 22
L1 2 3 10m
.ends

* Model Definitions
.MODEL D1N4001 D IS=29.5E-9 RS=73.5E-3 N=1.96 CJO=34.6P VJ=0.627 
+M=0.461 BV=60 IBV=10U
.MODEL D1N5357 D IS=1E-12 TT=1E-08
.MODEL Smod SW(Ron=1m Roff=1MEG VT=2.5V VH=0)

*** Simulation
** Slow
* .tran 1u 2m
** Fast
.tran 0.1n 100n

** Automatation
.control 
set filetype=ascii
run
plot V(3)-V(4)
wrdata simout v(2) v(3) v(4)
.endc

.END

