**********************************************
* Temperature measurement circuit with LM335 *
**********************************************

.include op27b.cir

.PARAM RG=10k
.PARAM RF=100k

* Arduino 5V out
VCC 99 0 4.98

* Voltage divider for reference
R1 99 1 560
R2 1 0 680

* Measurement and amplification circuit
R3 1 2 RG
R4 2 3 RF
R5 3 0 10k
R6 99 4 1k
R7 4 5 RG
R8 5 0 RF
X1 5 2 99 0 3 OP27B
D1 0 4 DLM335

* Modeling the LM335 with Zener diode + manually set breadown voltage
* 25 C => 298.2K => 2.982V
.model DLM335 D ( BV=2.982 IBV=2m )

* Operating point
.OP

** Automatation
.control 
set filetype=ascii
run
* print V(1) V(3)
print  V(1) V(2) V(3) V(4) V(5)
.endc

.END


